US09029545B2
Ethyl 6-methyl-4-[(phenylsulfonyl)amino]-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate
A mixture of ethyl 2-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridine-5-carboxylate (Description 67) (6.27 g, 13.77 mmol), 1-tert-butoxylcarbonyl-1H-pyrazole-4-boronic acid, pinacol ester (8.10 g, 27.5 mmol), tetrakis(triphenylphosphine)palladium(0) (0.796 g, 0.688 mmol) and potassium carbonate (5.71 g, 41.3 mmol) in 1,4-dioxane (40 mL), DMF (20 mL) and water (10 mL) was heated at 100° C. for ca. 3.5 h. After cooling to RT, the reaction mixture was filtered through celite and the filtrate was concentrated. The residue was purified via normal phase chromatography eluting with 0-100% ethyl acetate in DCM, to give the title compound (5.81 g). LCMS (A) m/z: 443 [M+1]+, Rt 1.05 min (acidic).

reactant | ethyl 2-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridine-5-carboxylate | 13.77 mmol, 6.27 g | BrC1=CC=2C(=NC(=C(C2NS(=O)(=O)C2=CC=CC=C2)C(=O)OCC)C)S1 | C17H15BrN2O4S2
reactant | 1-tert-butoxylcarbonyl-1H-pyrazole-4-boronic acid | O(C(C)(C)C)C(=O)N1N=CC(=C1)B(O)O | C8H13BN2O4
reactant | potassium carbonate | 41.3 mmol, 5.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.688 mmol, 0.796 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 6-methyl-4-[(phenylsulfonyl)amino]-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 5.81 g | CC1=C(C(=C2C(=N1)SC(=C2)C=2C=NNC2)NS(=O)(=O)C2=CC=CC=C2)C(=O)OCC | C20H18N4O4S2
